US07247638B2
1.3 9-(2-Oxo-2-phenyl-ethyl)-8-phenyl-2-(4-pyridinyl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one hydrochloride (1:1)
A solution of 0.3 g (98 mmoles) of 8-phenyl-2-(4-pyridinyl)-6,7,8,9-tetrahydro-4H-pyrimido[1.2-a]pyrimidin-4-one in 8 ml of anhydrous dimethylformamide was treated with 51 mg (1.28 mmoles) of sodium hydride (60% in mineral oil). The resulting suspension was stirred at 0° C. for 30 mins and then treated with 0.255 g (1.28 mmoles) of 2-bromoacetophenone. After stirring for 18 h at room temperature, water was added and the reaction mixture was extracted with ethyl acetate. The organic phase was washed with a saturated solution of aqueous sodium chloride and was evaporated under reduced pressure to give crude product. Purification using silica gel chromatography eluting with a gradient comprising dichloromethane/methanol in the proportions 99/1 to 95/5 gave pure product which was dissolved in ethanol and treated with 1 equivalent of a solution of hydrochloric acid in isopropanol. The resulting salt was recrystallized from a mixture of isopropanol/diisopropylether to give 0.16 g (39%) of pure product. Mp: 134-137° C.

reactant | 8-phenyl-2-(4-pyridinyl)-6,7,8,9-tetrahydro-4H-pyrimido[1.2-a]pyrimidin-4-one | 98 mmoles, 0.3 g | C1(=CC=CC=C1)C1NC=2N(C(C=C(N2)C2=CC=NC=C2)=O)CC1 | C18H16N4O
reactant | sodium hydride | 1.28 mmoles, 51 mg | [H-].[Na+]
reactant | 2-bromoacetophenone | 1.28 mmoles, 0.255 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 9-(2-Oxo-2-phenyl-ethyl)-8-phenyl-2-(4-pyridinyl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one hydrochloride | 0.16 g, 39% | Cl.O=C(CN1C(CCN2C1=NC(=CC2=O)C2=CC=NC=C2)C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C26H22N4O2.ClH/c31-24(21-9-5-2-6-10-21)18-30-23(20-7-3-1-4-8-20)13-16-29-25(32)17-22(28-26(29)30)19-11-14-27-15-12-19;/h1-12,14-15,17,23H,13,16,18H2;1H
